********************************************************
*
*   Space-vector pulse-width modulation
*
********************************************************
*
* [PARAMETERS]
*
* Vhigh,Vlow  [V]   = logic levels, defaults <1,0>;
* f           [Hz]  = switching frequency, default 2k;
* sym=<1m..999m>    = sets the symmetry (skewness) of the carrier, trise=a/f,
*                   tfall=(1-a)/f, default 0.5 (symmetric);
* a,b=<-1,1>        = sign control of the inputs for internal angle generation,
*                   defaults <-1,-1>;
* dt          [s]   = internal dead-time, default 1u;
* td          [s]   = total delay time, default 1u.
*
* - Hidden:
*
* vh      [V] = hysteresis for comparators, useful for noisy inputs, default 0;
* tripdt  [s] = LTspice's specific for A-devices, default 0.
*
********************************
.subckt SVPWM A B Sa _Sa Sb _Sb Sc _Sc _EN params:
+ f=2k dt=1u a=-1 b=-1 vhigh=1 vlow=0 td=1u vh=0 Cpar=1n tripdt=0 sym=0.5
+ _sym=limit(sym,1m,999m)
B_atan2 0 wt i=atan2(sgn(b)*v(b),sgn(a)*v(a))+pi Rpar=1; Cpar={Cpar}
B_M 0 M i=hypot(v(b),v(a)) Rpar=1; Cpar={Cpar}
B_alpha 0 alpha i=v(wt)-int(v(wt)*3/pi)*pi/3 Rpar=1; Cpar={Cpar}
B_sector 0 sector i=limit(0,6,ceil(v(wt)*3/pi)) Rpar=1; Cpar={Cpar}
B_t1 0 t1 i=sin(v(alpha)+2*pi/3)*v(M) Rpar=1; Cpar={Cpar}
B_t2 0 t2 i=sin(v(alpha))*v(M) Rpar=1; Cpar={Cpar}
B_t3 0 t0 i=(1-v(t1)-v(t2))/2 Rpar=1; Cpar={Cpar}
B_t4 0 t0_1 i=v(t0)+v(t1) Rpar=1; Cpar={Cpar}
B_t5 0 t0_2 i=v(t0)+v(t2) Rpar=1; Cpar={Cpar}
B_t6 0 t0_1_2 i=v(t0)+v(t1)+v(t2) Rpar=1; Cpar={Cpar}
B_Ta 0 s1 i=table(int(v(sector)),0,0,1,v(t0),2,v(t0_2),3,v(t0_1_2),4,v(t0_1_2),5,v(t0_1),6,v(t0),7,0) Rpar=1 Cpar={Cpar}
B_Tb 0 s2 i=table(int(v(sector)),0,0,1,v(t0_1),2,v(t0),3,v(t0),4,v(t0_2),5,v(t0_1_2),6,v(t0_1_2),7,0) Rpar=1 Cpar={Cpar}
B_Tc 0 s3 i=table(int(v(sector)),0,0,1,v(t0_1_2),2,v(t0_1_2),3,v(t0_1),4,v(t0),5,v(t0),6,v(t0_2),7,0) Rpar=1 Cpar={Cpar}
Aia 100 s1 0 0 0 12 11 0 SCHMITT td={td} vt=0 vh={vh} vhigh=vhigh vlow=vlow trise={2*dt} tfall={dt/10} tripdt={tripdt}
Aib 100 s2 0 0 0 22 21 0 SCHMITT td={td} vt=0 vh={vh} vhigh=vhigh vlow=vlow trise={2*dt} tfall={dt/10} tripdt={tripdt}
Aic 100 s3 0 0 0 32 31 0 SCHMITT td={td} vt=0 vh={vh} vhigh=vhigh vlow=vlow trise={2*dt} tfall={dt/10} tripdt={tripdt}
Aa 0 11 EN 0 0 0 Sa 0 AND vhigh={vhigh} vlow={vlow} tripdt={tripdt}
A_a 0 0 EN 12 0 0 _Sa 0 AND vhigh={vhigh} vlow={vlow} tripdt={tripdt}
Ab 0 21 EN 0 0 0 Sb 0 AND vhigh={vhigh} vlow={vlow} tripdt={tripdt}
A_b 0 0 EN 22 0 0 _Sb 0 AND vhigh={vhigh} vlow={vlow} tripdt={tripdt}
Ac 0 31 EN 0 0 0 Sc 0 AND vhigh={vhigh} vlow={vlow} tripdt={tripdt}
A_c 0 0 EN 32 0 0 _Sc 0 AND vhigh={vhigh} vlow={vlow} tripdt={tripdt}
Vosc 100 0 pulse -1 1 0 {_sym/f} {(1-_sym)/f} 0 {1/f} rser=1g trigger v(_en)<{(vhigh+vlow)/2}
A_en _EN 0 0 0 0 EN 0 0 BUF td={td} vhigh={Vhigh} vlow={Vlow}
Ren 0 _EN 1G
.ends SVPWM
