* G:\My Drive\BosSys\996_LTSpice\Pwr\CODEX\work\svm-baseline\SVM.asc
* Generated by LTspice 24.1.10 for Windows.
X§U1 PH wt f=50 phi=0 ;§pnba out
B1 AlphaO 0 V={N}*SIN(V(PHPLL1))
B2 BetaO 0 V={N}*COS(V(PHPLL1))
E1 ALPF 0 A 0 laplace={wc^4/((s^2+0.7653669*wc*s+wc^2)*(s^2+1.8477591*wc*s+wc^2))}
B4 L1 0 V=if(time < 100m, time/100m*{VLN}*Sin(V(PH)),{VLN}*Sin(V(PH)))
B5 L2 0 V=if(time < 100m, time/100m*{VLN}*Sin(V(PH) + 2*pi/3),{VLN}*Sin(V(PH) + 2*pi/3))
B6 L3 0 V=if(time < 100m, time/100m*{VLN}*Sin(V(PH) + 4*pi/3),{VLN}*Sin(V(PH) + 4*pi/3))
X§U10 L1 L2 L3 Alpha Beta N001 PH abc/AB0 sq=0 f=50 ;§pnba in1)in2)in3)out1)out2)out3)wt
X§U11 Alpha Beta N001 D Q NC_01 PHPLL1 AB/dq sq=0 f=50 ;§pnba in1)in2)in3)out1)out2)out3)wt
X§U12 Beta Alpha PHPLL atan2 a=1 b=1 dc=0 ;§pnba a)b)out
X§U13 D Q NC_02 LL1 LL2 LL3 PHPLL1 dq0/abc sq=0 f=50 ;§pnba in1)in2)in3)out1)out2)out3)wt
X§U14 N002 N004 PHPLL1 mod a=1 b=1 dc=0 tripdv=1 tripdt=1 ;§pnba a)b)out
B9 N003 0 V=2*PI+pi/2
B10 N004 0 V=2*PI
X§U15 PHPLL N003 N002 + a=1 b=1 dc=0 tripdv=1 tripdt=1 ;§pnba a)b)out
E2 BLPF 0 B 0 laplace={wc^4/((s^2+0.7653669*wc*s+wc^2)*(s^2+1.8477591*wc*s+wc^2))}
E3 CLPF 0 C 0 laplace={wc^4/((s^2+0.7653669*wc*s+wc^2)*(s^2+1.8477591*wc*s+wc^2))}
C1 DCP 0 100m Rpar=1k
C2 0 DCR 1m Rpar=1k
L1 A L1 4m
L2 B L2 4m
L3 C L3 4m
X§U3 AlphaO BetaO AT AB BT BB CT CB NC_03 SINPWM f=2k sym=0.5 Vhigh=1 Vlow=0 dt=1u td=1u Vpk=1 ;§pnba A)B)Sa)_Sa)Sb)_Sb)Sc)_Sc)_EN
X§U2 AT AB BT BB CT CB A B C DCP DCR 3ph_br_vm Ron=100m Roff=10meg Vfwd=1 Vdrev=1k Rs=1meg Cs=100p ;§pnba INa)_INa)INb)_INb)INc)_INc)A)B)C)DC+)DC-
.param N = 1
.tran 300m
.param RCC = 1u
.param RCR = 100
.param wc=2*pi*1000
.param VDC = 565
.param TRAMP = 100m
.param VLN = 20
.lib mathfunc2.sub
.lib pwr.sub
.lib transforms.sub
.backanno
.end
